US08278441B2
Racemic N-((4aRS,6RS,7aSR)-6-Hydroxy-7a-(3′-methoxybiphenyl-3-yl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide
To a solution of racemic N-((4aRS,6RS,7aSR)-6-(tert-butyldimethylsilyloxy)-7a-(3′-methoxybiphenyl-3-yl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide (1.47 g, 2.31 mmol) in acetonitrile (6 mL) is added 20-25% aqueous fluorosilicic acid (2.82 g, 4.62 mmol) and the resulting mixture is stirred at room temperature for 3 h. The reaction is diluted with ethyl acetate and quenched with saturated aqueous sodium bicarbonate. The mixture is washed with water and brine. The organic layer is dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product is purified by silica gel chromatography eluting with a linear gradient of 10% to 60% ethyl acetate in hexanes over 40 minutes to give the title compound as a racemic mixture (0.709 g, 64%). ES/MS m/e: 459 (M+1).

reactant | racemic N-((4aRS,6RS,7aSR)-6-(tert-butyldimethylsilyloxy)-7a-(3′-methoxybiphenyl-3-yl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide | 2.31 mmol, 1.47 g | [Si](C)(C)(C(C)(C)C)OC1CC2C(N=C(SC2)NC(C2=CC=CC=C2)=O)(C1)C=1C=C(C=CC1)C1=CC(=CC=C1)OC | C33H40N2O3SSi
reactant | fluorosilicic acid | 4.62 mmol, 2.82 g | F[Si-2](F)(F)(F)(F)F.[H+].[H+]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Racemic N-((4aRS,6RS,7aSR)-6-Hydroxy-7a-(3′-methoxybiphenyl-3-yl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-yl)benzamide | OC1CC2C(N=C(SC2)NC(C2=CC=CC=C2)=O)(C1)C=1C=C(C=CC1)C1=CC(=CC=C1)OC | C27H26N2O3S
